US07459451B2
To a stirred solution of ethyl 3-[1-ethyl-6-formyl-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]propanoate (42 mg) in THF (1 ml) was added 0.93M methylmagnesium bromide in THF (0.18 ml) at 0° C. and the reaction mixture was stirred at 0° C. for 1 hour. Another 0.93M methylmagnesium bromide in THF (0.18 ml) was added at 0° C. and the reaction mixture was stirred at 0° C. for 1 hour. The reaction mixture was diluted with saturated aqueous ammonium chloride and extracted with EtOAc. The organic layer was washed with water, brine, dried over anhydrous MgSO4 and concentrated in vacuo. The residue was purified by preparative thin layer chromatography on silica gel eluting with a mixture of EtOAc and n-hexane (3:1) to give ethyl 3-[1-ethyl-6-(1-hydroxyethyl)-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]propanoate (34 mg) as a colorless oil.

reactant | ethyl 3-[1-ethyl-6-formyl-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]propanoate | 42 mg | C(C)N1N=CC=2C1=NC(=C(C2C=2C=NC=C(C2)C)CCC(=O)OCC)C=O | C20H22N4O3
reactant | methylmagnesium bromide | 0.93M | C[Mg]Br
reactant | methylmagnesium bromide | 0.93M | C[Mg]Br
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 0.18 ml | C1CCOC1 | C4H8O
solvent | THF | 0.18 ml | C1CCOC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
product | ethyl 3-[1-ethyl-6-(1-hydroxyethyl)-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]propanoate | 34 mg | C(C)N1N=CC=2C1=NC(=C(C2C=2C=NC=C(C2)C)CCC(=O)OCC)C(C)O | C21H26N4O3
